US06048866
N-{3,5-Dimethoxy-4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}-4-(3-methoxyphenylsulphanyl)-2-pyrimidineamine dihydrochloride
The tosylate used as starting material was prepared by treating a solution of N-[3,5-dimethoxy-4-(2-hydroxyethoxy)phenyl]-4-(3-methoxyphenylsulphanyl)-2-pyrimidineamine (2.0 g, 4.3 mmol) in pyridine (6 ml) with p-toluenesulphonyl chloride (3.28 g, 17.2 mmol) at room temperature for 2 h. Water (25 ml) was added to the reaction followed by acidification with 2M hydrochloric acid, and this was extracted with ethyl acetate (100 ml). The organic phase was washed with 2M hydrochloric acid (100 ml) and saturated aqueous Na2CO3 (100 ml), dried (MgSO4) and concentrated under reduced pressure to give the desired product as a light brown oil (2.31 g). δH (CDCl3) 8.04 (1H, d, J 5.4 Hz), 7.80 (2H, d, J 8.3 Hz), 7.39-7.30 (3H, s), 7.20-7.13 (2H, m), 7.03-6.99 (2H, m), 6.86 (2H, s), 6.22 (1H, d, J 5.4 Hz), 4.31 (2H, t, J 5.6 Hz), 4.13 (2H, t, J 5.6 Hz), 3.81 (3H, s), 3.77 (6H, s) and 2.43 (3H, s).

reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | N-[3,5-dimethoxy-4-(2-hydroxyethoxy)phenyl]-4-(3-methoxyphenylsulphanyl)-2-pyrimidineamine | 4.3 mmol, 2.0 g | COC=1C=C(C=C(C1OCCO)OC)NC1=NC=CC(=N1)SC1=CC(=CC=C1)OC | C21H23N3O5S
reactant | p-toluenesulphonyl chloride | 17.2 mmol, 3.28 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | Water | 25 ml | O | H2O
product | N-{3,5-Dimethoxy-4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}-4-(3-methoxyphenylsulphanyl)-2-pyrimidineamine dihydrochloride | 2.31 g | Cl.Cl.COC=1C=C(C=C(C1OCCN1CCCC1)OC)NC1=NC=CC(=N1)SC1=CC(=CC=C1)OC | InChI=1S/C25H30N4O4S.2ClH/c1-30-19-7-6-8-20(17-19)34-23-9-10-26-25(28-23)27-18-15-21(31-2)24(22(16-18)32-3)33-14-13-29-11-4-5-12-29;;/h6-10,15-17H,4-5,11-14H2,1-3H3,(H,26,27,28);2*1H
